US05843957
Preparation of N-[1-cyclopropylmethyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (400 mg, 0.85 mmol) in DMF (10 ml) were added potassium carbonate (141 mg, 1.02 mmol), potassium iodide (28 mg, 0.17 mmol), and (bromomethyl)cyclopropane (138 mg, 1.02 mmol), and the mixture was stirred at 40°-50° C. for 10 hours. After allowed to stand for cooling, the mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (1% methanol in chloroform), and crystallized from ether to give the title compound (354 mg, 0.67 mmol) as a colorless crystal.

reactant | N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.85 mmol, 400 mg | COC=1C=C(C=CC1)C1=C(C(NC2=NC=CC=C12)=O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C28H30N4O3
reactant | potassium carbonate | 1.02 mmol, 141 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.17 mmol, 28 mg | [I-].[K+]
reactant | (bromomethyl)cyclopropane | 1.02 mmol, 138 mg | BrCC1CC1 | C4H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-cyclopropylmethyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.67 mmol, 354 mg | C1(CC1)CN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C32H36N4O3
